US07312236B2
N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-2,4,6-trifluoro-benzamide di-hydrochloride salt isomer 1
Add 2,4,6-trifluorobenzoyl chloride (117 mg, 0.60 mmol) to a solution of 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine, isomer 1 (preparation 10, 100 mg, 0.46 mmol) in pyridine (6 mL) and heat at 55° C. overnight. Re-add another portion of 2,4,6-trifluorobenzoyl chloride (50 mg, 0.26 mmol) and heat at 65° C. for 4 hr. Remove volatiles under reduced pressure, dissolve the residue in 1N HCl, extract twice with ethyl ether. Adjust aqueous layer to pH>11 with 5N NaOH. Extract the aqueous layer there times with DCM. Combine organic layers, dry over sodium sulfate, filter and concentrate to give a residue. Purify the residue by chromatography (silica gel, 5% 2M NH3/MeOH in DCM) to provide the free amine of the title compound as a colorless oil (84 mg, 49%): MS (ion spray): m/z=376.2 (M+H)+; 1H NMR (CDCl3): δ 8.91 (s, br, 1H), 8.20 (d, 1H), 7.73 (t, 1H), 7.14 (d, 1H), 6.71 (m, 2H), 6.61 (m, 1H), 2.65 (m, 1H), 2.44 (m, 3H), 2.35 (s, 6H), 2.12 (m, 2H), 1.53 (m, 1H). Using a salt formation method similar to that in example 1 provides the di-hydrochloride salt. Di-hydrochloride salt: Anal. cal'd for C20H20F3N3O.2HCl: C, 53.58; H, 4.95; N, 9.37. Found: C, 53.42; H, 4.91; N, 9.23.

reactant | 2,4,6-trifluorobenzoyl chloride | 0.60 mmol, 117 mg | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
reactant | 2,4,6-trifluorobenzoyl chloride | 0.26 mmol, 50 mg | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-2,4,6-trifluoro-benzamide di-hydrochloride salt | 84 mg, 49% | Cl.Cl.CN(C1CC=C(CC1)C1=CC=CC(=N1)NC(C1=C(C=C(C=C1F)F)F)=O)C | InChI=1S/C20H20F3N3O.2ClH/c1-26(2)14-8-6-12(7-9-14)17-4-3-5-18(24-17)25-20(27)19-15(22)10-13(21)11-16(19)23;;/h3-6,10-11,14H,7-9H2,1-2H3,(H,24,25,27);2*1H
